US06162818
1-t-Butoxycarbonyl-2,3-dihydro-4-(2-imidazolinylamino)-7-methylindole (0.384 g, 1.22 mmol) is dissolved in methanol (10 mL). To this solution is added 30% hydrogen bromide in acetic acid (2.5 mL). The solution is heated to reflux for 2.5 hours. The reaction mixture is concentrated by rotary evaporation and the resulting orange liquid taken up in chloroform. The chloroform solution is treated with 50% NaOH solution and extracted with three 25 mL portions of chloroform. The organic layers are collected and dried over anhydrous potassium carbonate. Filtration and removal of the solvent produces a brownish-orange solid which is purified via silica gel column chromatography using 10% methanol (ammonium hydroxide treated)/methylene chloride as the eluent to afford 0.257 g of 2,3-dihydro-4-(2-imidazolinylamino)-7-methylindole as a light-orange solid.

reactant | 1-t-Butoxycarbonyl-2,3-dihydro-4-(2-imidazolinylamino)-7-methylindole | 1.22 mmol, 0.384 g | C(C)(C)(C)OC(=O)N1CCC2=C(C=CC(=C12)C)NN1C=NCC1 | C17H24N4O2
reactant | hydrogen bromide | Br | BrH
solvent | methanol | 10 mL | CO | CH4O
solvent | acetic acid | 2.5 mL | C(C)(=O)O | C2H4O2
product | 2,3-dihydro-4-(2-imidazolinylamino)-7-methylindole | 0.257 g | N1(C=NCC1)NC1=C2CCNC2=C(C=C1)C | C12H16N4
